US09062023B2
(a) (2-Methyl-5-nitro-pyridin-3-yl)-(4-pyridin-3-yl-pyrimidin-2-yl)-amine
To a mixture of 3-bromo-2-methyl-5-nitro-pyridine (380 mg, 1.75 mmol) and 4-pyridin-3-yl-pyrimidin-2-ylamine (250 mg, 1.45 mmol) in dry toluene (20 mL) were added Cs2CO3 (710 mg, 2.18 mmol), Pd2(dba)3 (26 mg, 0.028 mmol) and Xantphos (50 mg, 0.086 mmol). The mixture was evacuated and purged with N2 (3 cycles), heated to 90° C. under N2 for 16 h. After completion (monitored by TLC), the reaction mixture was cooled to rt, diluted with EtOAc and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by column chromatography (SiO2) using CH2Cl2-MeOH (98:2) to afford product (225 mg, 50%). 1H NMR (200 MHz, CDCl3): δ 2.76 (s, 3H), 7.23 (m, 1H), 7.38 (d, J=6.0 Hz, 1H), 7.51 (m, 1H), 8.51 (m, 1H), 8.63 (d, J=6.0 Hz, 1H), 8.77 (m, 1H), 9.04 (d, J=2.0 Hz, 1H), 9.28 (d, J=2.0 Hz, 1H), 9.77 (d, J=2.0 Hz, 1H); Mass [M+H]+: 309.

reactant | 3-bromo-2-methyl-5-nitro-pyridine | 1.75 mmol, 380 mg | BrC=1C(=NC=C(C1)[N+](=O)[O-])C | C6H5BrN2O2
reactant | 4-pyridin-3-yl-pyrimidin-2-ylamine | 1.45 mmol, 250 mg | N1=CC(=CC=C1)C1=NC(=NC=C1)N | C9H8N4
reactant | Cs2CO3 | 2.18 mmol, 710 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Xantphos | 0.086 mmol, 50 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.028 mmol, 26 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2-Methyl-5-nitro-pyridin-3-yl)-(4-pyridin-3-yl-pyrimidin-2-yl)-amine | 225 mg, 50% | CC1=NC=C(C=C1NC1=NC=CC(=N1)C=1C=NC=CC1)[N+](=O)[O-] | C15H12N6O2
